US04840965
1-Benzyloxy-2,3-methylenedioxybenzene (47.8 g) in chlorobenzene (50 ml) was added dropwise to a mixture of N-methylformanilide (34 g) and phosphorus oxychloride (38.5 g) in chlorobenzene (50 ml) maintained at -5° C. When the addition was complete the reaction mixture was allowed to warm to room temperature. It was then poured onto ice, and stirred overnight. The resulting mixture was extracted with ethyl acetate, washed with water and brine, and then dried and evaporated to yield 47.9 g of crude product as an isomeric mixture of aldehydes. Silica gel chromatography using 1:1 dichloromethane-hexane afforded 7 g of 4-benzyloxy-2,3-methylenedioxybenzaldehyde, mp 81°-82° C.

reactant | 1-Benzyloxy-2,3-methylenedioxybenzene | 47.8 g | C(C1=CC=CC=C1)OC1=C2C(=CC=C1)OCO2 | C14H12O3
reactant | N-methylformanilide | 34 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphorus oxychloride | 38.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dichloromethane hexane | ClCCl.CCCCCC
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-benzyloxy-2,3-methylenedioxybenzaldehyde | 7 g | C(C1=CC=CC=C1)OC1=C2C(=C(C=O)C=C1)OCO2 | C15H12O4
